US05468898
A solution of 0.5 g (1.4 mmol) of 1-trifluoromethylsulfonyloxy-3-carbomethoxy-6-benzyloxynaphthalene in 20 ml of DMF is stirred at 25° C. for 18 hours with 0.18 g (4.27 mmol, 3 eq) of LiCl, 0.46 ml (1.57 mmol, 1.1 eq) of vinyl-tributyltin and 0.019 g (0.03 mmol, 0.02 eq) bis(triphenyl-phosphine) palladium (II) chloride. The mixture is partitioned between ethyl acetate and 1N HCl. The organics are dried (MgSO4) and concentrated in vacuo. Purification by flash silica gel chromatography using 5% ethyl acetate in hexanes as an eluent affords 0.3 g of 1-vinyl-3-carbomethoxy-6-benzyloxynaphthalene in the form of a yellow oil which is used directly in the next step.

reactant | 1-trifluoromethylsulfonyloxy-3-carbomethoxy-6-benzyloxynaphthalene | 1.4 mmol, 0.5 g | FC(S(=O)(=O)OC1=CC(=CC2=CC(=CC=C12)OCC1=CC=CC=C1)C(=O)OC)(F)F | C20H15F3O6S
reactant | LiCl | 4.27 mmol, 0.18 g, 3 eq | [Li+].[Cl-]
reactant | vinyl-tributyltin | 1.57 mmol, 0.46 ml, 1.1 eq | C(=C)[Sn](CCCC)(CCCC)CCCC
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
catalyst | bis(triphenyl-phosphine) palladium (II) chloride | 0.03 mmol, 0.019 g, 0.02 eq | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-vinyl-3-carbomethoxy-6-benzyloxynaphthalene | 0.3 g | C(=C)C1=CC(=CC2=CC(=CC=C12)OCC1=CC=CC=C1)C(=O)OC | C21H18O3
